Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ovarian cancer C2D17 of doxil and carboplatin who 
presented with one day of chest pain and weakness. She called 
clinic and noted that she was having weakness when she stands 
up. She was referred to the ED for further evaluation.

Her chest pain is described as over the sternum, sharp in 
nature, which is much worse with inspiration. She has not had 
nausea, vomiting, diaphoresis. Her pain was partially helped 
with hydromorphone in the ED. 

In ED vitals: 97 88 118/84 18 97% ra 
On transfer: 98.1 79 134/90 18 100% 
Given: Ondansetron, hydromorphone
Fluids: 1L NS
Access: Single lumen power port
Studies: CTA: No pulmonary embolism or acute aortic pathology. 
Clear lungs.
Labs: chemistry normal. CBC with a HCT of 27.

On the floor she appears well and continues to have chest pain. 
It is reproducible on exam as below. She feels weak but 
otherwise has no localizing symptoms. She has been taking good 
PO at home, though mostly fluid as her appetite has been 
somewhat poor (no nausea/vomiting). 

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies blurry vision, 
diplopia. Denies headache, rhinorrhea or congestion. Denies 
palpitations, lower extremity edema. Denies cough, shortness of 
breath (occassional with exertion), or wheezes. Denies nausea, 
vomiting, diarrhea, constipation, abdominal pain, melena, 
hematemesis, hematochezia. Denies dysuria, stool or urine 
incontinence. Denies arthralgias or myalgias. Denies rashes or 
skin breakdown. No numbness/tingling in extremities. All other 
systems negative.  

 
Past Medical History:
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 
cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 
showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 
blood pressures and oxygen saturation. CTA chest demonstrated no 
evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc.
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic
___, C1D1 ___

PAST MEDICAL HISTORY:  
DEPRESSION 
HEADACHE 
IRRITABLE BOWEL SYNDROME 
OSTEOPOROSIS 
*S/P WRIST SURGERY 
CONNECTIVE TISSUE DISORDER 
RAYNAUD'S SYNDROME 
OSTEOPENIA 
___ MENTAL HEALTH 
PHARYNGITIS 
? LICHEN SCLEROSUS 
UTERINE FIBROIDS 
OVARIAN CANCER 
H/O ENCHEPHALITIS 
H/O ENCEPHALITIS 
H/O OVARIAN CYST 
H/O R FOOT FRACTURE 
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.
 
Physical Exam:
Admission:
VITALS: T 98.7, BP 118/73, HR 73, RR 18, sat 100% on RA 
General: Well appearing young female in NAD
HEENT: vitiligo on the upper lip and areas of the face. MMM, no 
oral lesions.
Neck:  Supple, no JVD, No LAD
CV: Normal rate, regular rhythm, no m/r/g, reproducible chest 
pain over the sternum, port in place on right chest without 
erythema or breakdown 
Lungs: clear to auscultation bilaterally, no wheezes rales 
rhonchi
Abdomen: Soft, well healed midline incision. No TTP, no rebound 
guarding.
GU: no foley
Ext:  No edema, 2+ pulses
Skin: as above, no rashes
Neuro: Oriented x3, moving all extermities, no deficits grossly

Discharge:
Unchanged
 
Pertinent Results:
___ 06:00PM BLOOD WBC-4.7 RBC-3.47* Hgb-9.3* Hct-27.1* 
MCV-78* MCH-26.7* MCHC-34.2 RDW-15.3 Plt Ct-82*
___ 06:00PM BLOOD Neuts-75.3* ___ Monos-4.3 Eos-0.2 
Baso-0.5
___ 06:00PM BLOOD Glucose-93 UreaN-7 Creat-0.7 Na-142 K-4.0 
Cl-102 HCO3-24 AnGap-20
___ 06:00PM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0
___ 06:00PM BLOOD D-Dimer-2753*
___ 06:19PM BLOOD Lactate-0.8

___ 06:15AM BLOOD WBC-2.8* RBC-3.41* Hgb-9.3* Hct-26.5* 
MCV-78* MCH-27.3 MCHC-35.2* RDW-16.2* Plt ___
___ 06:15AM BLOOD Glucose-90 UreaN-8 Creat-0.7 Na-141 K-3.7 
Cl-104 HCO3-29 AnGap-12
___ 06:15AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.1

___ 06:00PM URINE Color-Straw Appear-Clear Sp ___
___ 06:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 06:00PM URINE UCG-NEGATIVE

CXR - Right-sided Port-A-Cath tip terminates in the low SVC.  
Cardiac, mediastinal and hilar contours are normal.  Lungs are 
clear.  The pulmonary vasculature is normal.  No pneumothorax or 
pleural effusion is present.  No acute osseous abnormalities are 
present. 
IMPRESSION: No acute cardiopulmonary abnormality. 

CTA Chest - IMPRESSION: 
1.  No evidence of a pulmonary embolism or acute aortic 
pathology. 
2.  Clear lungs.
 
Brief Hospital Course:
___ with ovarian cancer on cycle 2 of doxil and carboplatin who 
presented with one day of chest pain and weakness. 

# Mylagias / Chest Pain: Likely musculoskeleta pain from recent 
chemotherapy. EKG was unremarkable. CTA negative. Pt endorsed 
that these symptoms were consistent with symptoms after prior 
doses of chemotherapy. She received one dose of toradol, and 
then she was transitioned to her home regimen of oxycodone. 
Chest pain had improved at the time of discharge. Myalgias were 
still present, particularly in the morning.

# Ovarian Cancer: Currently on treatment. She will follow-up 
with her outpt oncologist.

# Pancytopenia: ___ chemotherapy.

# Anxiety/depression:
- continue duloxetine
- continue ativan
  
CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS:PRN insomnia 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO BID 
4. Loratadine *NF* 10 mg Oral daily 
5. Lorazepam 0.5-1 mg PO Q8H:PRN nausea or vomiting 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. DiphenhydrAMINE 50 mg PO Q6H:PRN itchiness 
10. Docusate Sodium 100 mg PO BID 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Ibuprofen 800 mg PO PRN pain 
14. Prochlorperazine 10 mg PO Q6H:PRN nausea 
15. Senna 1 TAB PO BID:PRN constipation 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS:PRN insomnia 
2. DiphenhydrAMINE 50 mg PO Q6H:PRN itchiness 
3. Docusate Sodium 100 mg PO BID 
4. Duloxetine 60 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Loratadine *NF* 10 mg Oral daily 
7. Lorazepam 0.5-1 mg PO Q8H:PRN nausea or vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Prochlorperazine 10 mg PO Q6H:PRN nausea 
14. Senna 1 TAB PO BID:PRN constipation 
15. Ibuprofen 800 mg PO PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myalgias, ___ recent chemotherapy
Ovarian Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with body aches as well as 
chest pain. You had a CT and an ECG to investigate your chest 
pain, and neither revealed a concerning cause of your symptoms. 
You pains are likely related to your recent chemotherapy. Your 
symptoms were controlled with your oral oxycodone.

Please keep your follow-up appointment with Dr. ___ as listed 
below.

It was a pleasure taking part in your medical care.
 
Followup Instructions:
___